2144-07-21 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2144-7-21**] 12:00 AM
   No events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 20 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-21**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 117 (117 - 127) bpm
   BP: 131/72(82) {131/65(80) - 140/78(89)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             462 mL
   PO:
             TF:
   IVF:
   462 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///36/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   452 K/uL
   9.7 g/dL
   182 mg/dL
   0.2 mg/dL
   36 mEq/L
   4.1 mEq/L
   9 mg/dL
   101 mEq/L
   143 mEq/L
   33.3 %
   13.9 K/uL
        [image002.jpg]
                             [**2144-7-20**]  09:29 PM
                             [**2144-7-21**]  04:43 AM
   WBC
   13.9
   Hct
   33.3
   Plt
   452
   Cr
   0.2
   0.2
   Glucose
   182
   Other labs: PT / PTT / INR:14.8/26.8/1.3, LDH:240 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: This is a 59F with mental retardation w/recent dx of lymphoma p/w
   pleural and pericardial effusions as well as mediastinal mass who was
   admitted for tachypnea and hypoxia transferred to the MICU for
   increased bedside nursing needs.
   .
   # tachypnea and hypoxia: in pt w/known pleural effusions and
   mediastinal mass likely causing some SVC compression. She is currently
   satting in mid 90's on nasal cannula and shovel mask- she refuses
   BIPAP/CPAP and is DNI. At this time infection and diastolic heart
   failure cannot be excluded although no evidence of dCHF on recent ECHO.
   She has a.fib w/RVR decreasing filling time and likely has decreased
   preload due to SVC compression. The diagnosis of COPD is questionable
   in a pt w/o smoking hx and no radiologic evidence of emphysema. She has
   a large abdomen and chronic ileus likely contributing to mechanical
   respiratory compromise. CTA was negative for pulmonary embolism. In
   addition, she has pericardial effusion w/o tamponade physiology on her
   TTE but prior pericardiocentesis was negative for infection or
   malignancy. Pulsus was 6mmHg and tamponade unlikely, EKG unchanged.
   Large pleural effusions likely causing atelectasis. WBC count bumped to
   13.9 concerning for infection but afebrile.
   - lasix and morphine PRN
   - blood cultures negative, no recent sputum cx
   - continue to cover for nosocomial PNA w/vanc and cefepime.
   - ipratropium nebs, levalbuterol prn
   - monitor on telemetry
   - per heme/onc service, if pt has respiratory distress overnight may
   use steroids
   - rate control w/diltiazem gtt
   - continue supplemental oxygen as needed
   .
   # Lymphoma: p/w pleural and pericardial effusions, mediastinal mass
   w/SVC compression; preliminary pathology c/w lymphoma but awaiting
   final pathology. Once diagnosis made, can initiate treatment. No
   clinical signs of SVC syndrome but noted to have compression on scan.
   - heme/onc following, appreciate their recs
   - solumedrol 100mg IV x 1
   - Q6 hours tumor lysis labs
   - gentle IVF hydration
   - radiation oncology to be made aware for [**Name (NI) 3084**]
   - pt will require tx to [**Hospital Unit Name 44**]
   - currently pericardial effusion w/o tamponade physiology
   - mediastinal mass compressing SVC, but pt relatively [**Name2 (NI) 3079**], likely
   contributing to LE edema, will likely improve w/treatment
   .
   # Atrial fibrillation: currently on CCB gtt but rate not well
   controlled; hemodynamically stable; not on anticoagulation at home
   given history of hemopericardium
   - continue dilt gtt
   - consider adding digoxin for second [**Doctor Last Name **] (grade 2C recommendation) as
   currently not rate controlled on max dose dilt gtt
   .
   # Elevated bicarb: Last gas on [**7-18**] showed pCo2 of 50, therefore felt
   to be pulmonary acidosis with metabolic compensation; unclear why
   patient would have high pCO2 if tachypneic. Could also be contraction
   alkalosis
   .
   # Ileus: stable; abdomen soft
   - daily AXR
   .
   # anemia: stable
   .
   # FEN: monitor lytes. regular cardiac diet
   .
   # Proph: bowel regimen, PPI, heparin subQ
   .
   # CODE: DNR/DNI -- confirmed with HCP [**Name (NI) 3080**].
   # ACCESS: peripheral
   .
   # DISPO: ICU care for now, plan to tx to [**Hospital Unit Name 44**] in AM
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-21**] 12:00 AM
   22 Gauge - [**2144-7-21**] 03:04 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2144-07-21 10:02:00 Physician Attending Progress Note
Chief Complaint: resp distress, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo woman with mental retardation with h/o afib with RVR, chronic
   ileus, mediastinal mass determined lymphoma on FNA- not further
   characerized. Cardiac tamponade 1 month ago s/p pericardiocentesis.
   Adm [**7-16**] for tachypnia and hypoxemia treated for pna empirically. Became
   hypoxemic and tachypnic yesterday, with subsequent [**Hospital 852**] transferred to
   MICU, started on dilt gtt. Hem onc leaning towards urgent XRT, ongoing
   evaluations by hem onc/rad onc. Started solumedrol last night with plan
   for chemo after lymphoma cell type determined. CTPA negative for PE
   [**2144-6-29**].
   24 Hour Events:
 PICC LINE - START [**2144-7-21**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   [**6-29**] chest CT with large right anterior mediastinal mass with diffuse
   lymphadenopathy and RUL nodules, small bilateral pleural effusions.
   Has been refusing to walk since hospitalization.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2144-7-21**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 119 (116 - 127) bpm
   BP: 130/69(78) {130/65(78) - 140/78(89)} mmHg
   RR: 28 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             705 mL
   PO:
             TF:
   IVF:
   705 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    705 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Lymphatic: supraclavic LAD on right
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Distended, tympanic
   Extremities: Right: 2+, Left: 2+, feet edematous, UE with no pitting
   edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   452 K/uL
   182 mg/dL
   0.2 mg/dL
   36 mEq/L
   4.1 mEq/L
   9 mg/dL
   101 mEq/L
   143 mEq/L
   33.3 %
   13.9 K/uL
        [image002.jpg]
                             [**2144-7-20**]  09:29 PM
                             [**2144-7-21**]  04:43 AM
   WBC
   13.9
   Hct
   33.3
   Plt
   452
   Cr
   0.2
   0.2
   Glucose
   182
   Other labs: PT / PTT / INR:14.8/26.8/1.3, LDH:240 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Resp distress with known mass encasing SVC. No physical exam findings
   c/w SVC syndrome. Very high oxygen requirement. Afib with RVR but
   normotensive.
   Possibly has PE or PA obstruction from mass. Echo pending.
   Will obtain LE dopplers. Check DDimer, though only useful if neg. BNP
   and troponin.
   Depending on that data, will decide on perfusion scan or attempting to
   pursue CT-angiogram.
   Antiocoagulation is contraindicated due to recent serosanguinous
   pericardial effusion, but she would be a candidate for IVC filter.
   Afib with RVR, failing dilt. Add esmolol. Will consider digoxin or amio
   if necessary.
   Metabolic alkalosis. Very likely that she has metabolic compensation
   for resp acidosis with high dead space.
   Ileus. No e/o obstruction- BM, eating.
   F/U path for cell type.
   Communicate with rad onc, hemonc.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-21**] 12:00 AM
   22 Gauge - [**2144-7-21**] 03:04 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2144-07-22 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-7-21**] 09:00 AM
 ULTRASOUND - At [**2144-7-21**] 11:00 AM
   LENI's
 ULTRASOUND - At [**2144-7-21**] 06:00 PM
   LUE
   CTA from NWH from [**7-17**] showed encasement of pulmonary arteries and no
   evidence of PE at that time
   [**First Name8 (NamePattern2) 255**] [**Last Name (NamePattern1) 1422**] discussed code status w/ family - Code Status changed to
   full code as risk of bronchospasm on etoposide.
   Started Chemo
   started standing zofran and decadron for nausea
   LUE and lower extremity ultrasounds negative for DVT
   D dimer only mildly elevated.
   Per cardiology focus on malignancy, no evidence for tamponade, do not
   believe she has a PE
   Per onc needs foley and 500cc NS prior to and after cytoxan
   Spontaneously converted to sinus- stopped dilt and labetalol drips,
   started on lopressor 12.5mg po qid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-22**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 79 (63 - 131) bpm
   BP: 123/51(67) {108/49(66) - 128/79(75)} mmHg
   RR: 17 (16 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,379 mL
                                                                    573 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                  2,739 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                    262 mL
                                                                    385 mL
   Urine:
                                                                    262 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,117 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: 7.46/53/62/30/11
   PaO2 / FiO2: 62
   Physical Examination
   GEN: comfortable wearing face tent
   HEENT: EOMI, PERRL, OP clear
   NECK: supple, supraclavicular [**Doctor First Name **]
   CHEST: bilateral wheezes
   ABD: Soft, distended, + bowel sounds
   EXT: bilateral lower extremity edema, 2+
   SKIN: no rashes
   Labs / Radiology
   532 K/uL
   8.9 g/dL
   220 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.5 mEq/L
   13 mg/dL
   107 mEq/L
   144 mEq/L
   31.6 %
   21.0 K/uL
        [image002.jpg]
                             [**2144-7-20**]  09:29 PM
                             [**2144-7-21**]  12:00 AM
                             [**2144-7-21**]  04:43 AM
                             [**2144-7-21**]  12:13 PM
                             [**2144-7-21**]  02:49 PM
                             [**2144-7-22**]  05:34 AM
   WBC
   13.9
   21.0
   Hct
   33.3
   30
   31.6
   Plt
   452
   532
   Cr
   0.2
   0.4
   0.2
   0.3
   0.4
   TropT
   <0.01
   <0.01
   TCO2
   39
   Glucose
   258
   182
   247
   220
   Other labs: PT / PTT / INR:13.8/24.8/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:[**12-21**], Alk Phos / T Bili:138/0.4,
   D-dimer:752 ng/mL, Lactic Acid:1.5 mmol/L, LDH:264 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: This is a 59F with mental retardation w/recent dx of lymphoma,
   likely Hodgkins here w tachypnea/hypoxia found to have compression of
   pulmonary artery by mediastinal mass..
   .
   # Tachypnea/hypoxia: Reviewed CT scan from OSH that demonstrated
   encasement of pulmonary artery by mediastinal mass. This is the likely
   source of her symptoms. She may have clot/emboli distal to compression
   as well. However, at that time there was no evidence of PE. Per Onc,
   her tumor should be very chemoresponsive. Therefore patient started on
   chemotherapy and high dosse steroids with the intention of reducing
   tumor burden and PA compression. Given hemopericardium, would not start
   heparin for PE at  and no compelling evidence that she has PE. Moderate
   pericardial effusion but no tamponade physiology per recent echo.
   Currently on Bipap. DNR/DNI.
   - LENIs - negative
   - D dimer elevated- nonspecific test
   - ECHO- notable for elevated R atrial pressures and moderate
   pericardial effusion with component of blood
   - F/U heme/onc recs.
   - continue supplemental oxygen as needed
   .
   # Lymphoma: Likely Hodgkins which would be very chemoresponsive.
   Therefore started chemotherapy yesterday with cytoxan, etoposide and
   doxorubicin.
   - heme/onc following, appreciate their recs
   - Q6 hours tumor lysis labs
   - 500cc NS pre and post cytoxan infusion to minimize nephrotoxicity
   - radiation oncology to be made aware for XRT
   - currently pericardial effusion w/o tamponade physiology
   - allopurinol
   - nebs as etoposide can cause bronchospasm
   - code changed to full given chemo regimen and increased risk of
   bronchospasm
   .
   # Hemopericardium: moderate per ECHO on [**7-17**] without evidence of
   tamponade. Hemodynamically stable.
   - monitor clinically for now. if VS unstable, check pulsus and consider
   repeat ECHO
   .
   # Atrial fibrillation: Spontaneously converted to sinus yesterday. Rate
   now well controlled.
   - continue low dose metoprolol
   - no anticoagulation given hemopericardium
   .
   # Acid/base status: Yesterday ABG consistent with mixed metabolic
   alkalosis and respiratory acidosis. Bicarb trending down today. Unclear
   etiology of acid base status. Likely contraction alkalosis as net
   positive 3L with low urine output.
   -  monitor lytes
   - ck ABG if change in respiratory status
   .
   # Ileus: stable; abdomen soft; chronic;
   - AXR unchanged
   - replete lytes aggressively
   .
   # Anemia: stable
   .
   # FEN: monitor lytes. regular cardiac diet
   .
   # Proph: bowel regimen, PPI, heparin subQ
   .
   # CODE: DNR/DNI -- confirmed with HCP [**Name (NI) 3080**].
   # ACCESS: peripheral; PICC placed yesterday- coiled; will need to be
   changed over a wire by IR
   .
   # DISPO: ICU care for now, plan to tx to [**Hospital Unit Name 44**] in AM
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-21**] 12:00 AM
   22 Gauge - [**2144-7-21**] 03:04 AM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2144-07-22 08:49:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo woman with newly diagnosed Hodgkins Disease encasing SVC, bilat
   bronchi, PA.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-7-21**] 09:00 AM
 ULTRASOUND - At [**2144-7-21**] 11:00 AM
   LENI's
 ULTRASOUND - At [**2144-7-21**] 06:00 PM
   LUE
   Started on chemo yesterday.
   Code status changed to full code.
   LE dopplers neg for DVT.
   Cardiology consultation: no tamponade and no PE.
   USG to eval right pleural effusion: moderate, adhesions present,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, distension
   Pain: [**4-14**] Mild
   Pain location: abd
   Flowsheet Data as of  [**2144-7-22**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 73 (63 - 131) bpm
   BP: 116/56(69) {108/49(66) - 125/62(75)} mmHg
   RR: 22 (16 - 32) insp/min
   SpO2: 94% face tent
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,379 mL
                                                                    784 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                  2,739 mL
                                                                    584 mL
   Blood products:
   Total out:
                                                                    262 mL
                                                                    465 mL
   Urine:
                                                                    262 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,117 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: 7.46/53/62/30/11
   PaO2 / FiO2: 62
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, appears
   comfortable at
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: SC LAD
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   ), prolonged exp phase, monophonic wheeze, left anterior and right
   posterior chest
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   532 K/uL
   220 mg/dL
   0.4 mg/dL
   30 mEq/L
   4.5 mEq/L
   13 mg/dL
   107 mEq/L
   144 mEq/L
   31.6 %
   21.0 K/uL
        [image002.jpg]
                             [**2144-7-20**]  09:29 PM
                             [**2144-7-21**]  12:00 AM
                             [**2144-7-21**]  04:43 AM
                             [**2144-7-21**]  12:13 PM
                             [**2144-7-21**]  02:49 PM
                             [**2144-7-22**]  05:34 AM
   WBC
   13.9
   21.0
   Hct
   33.3
   30
   31.6
   Plt
   452
   532
   Cr
   0.2
   0.4
   0.2
   0.3
   0.4
   TropT
   <0.01
   <0.01
   TCO2
   39
   Glucose
   258
   182
   247
   220
   Other labs: PT / PTT / INR:13.8/24.8/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:[**12-21**], Alk Phos / T Bili:138/0.4,
   D-dimer:752 ng/mL, Lactic Acid:1.5 mmol/L, LDH:264 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: echo: high RA pressure, nl RV size/fctn, moderate pericardial
   effusion
   Assessment and Plan
   59 yo woman with HD, mass encasing SVC, compressing main bronchi and PA
   No physical exam findings c/w SVC syndrome. Wheezing on exam.
   PE less likely given echo findings and neg LE dopplers and only
   borderline pos DDimer.
   HD: started chemo.
   Resp: Very high oxygen requirement, though improved. For now will not
   tap thoracentesis as she seems even more comfortable, nearly laying
   flat, oxygen req is better, and she tolerates procedures poorly.
    Afib converted to sinus.
   Recent pericardial effusion.
    Metabolic alkalosis, improved, likely had been contracted and now
   improved with hydration.
   Ileus. No e/o obstruction- BM, eating.
   Other issues per resident note
   Addendum:
   Became more dyspneic, with increased oxygen requirement, now on high
   flow face tent and 6L NC, with improvement in sat (dropped to 91%), but
   now back in afib, and back on esmolol drip.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-21**] 12:00 AM
   22 Gauge - [**2144-7-21**] 03:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 40
   Critically ill with respiratory failure and risk of airway and
   cardiovascular crisis.

2144-07-23 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2144-7-22**] 12:00 PM
 PICC LINE - START [**2144-7-22**] 01:00 PM
   Pt went back in a fib - unable to control with esmolol or diltiazem gtt
   separately, rate now improved on both gtt. Received 10mg IV lasix for
   increased O2 requirement prior to receiving IVF for chemotherapy
   Received etoposide last pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 20 mg/hour
   Esmolol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-7-22**] 08:00 AM
   Diltiazem - [**2144-7-22**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2144-7-22**] 08:13 PM
   Furosemide (Lasix) - [**2144-7-22**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-23**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 97 (70 - 148) bpm
   BP: 101/50(60) {90/49(60) - 130/86(91)} mmHg
   RR: 19 (14 - 28) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,638 mL
                                                                    369 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    938 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    560 mL
   Urine:
                                                                  1,825 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///38/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   501 K/uL
   8.8 g/dL
   126 mg/dL
   0.2 mg/dL
   38 mEq/L
   4.9 mEq/L
   14 mg/dL
   105 mEq/L
   144 mEq/L
   32.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2144-7-20**]  09:29 PM
                             [**2144-7-21**]  12:00 AM
                             [**2144-7-21**]  04:43 AM
                             [**2144-7-21**]  12:13 PM
                             [**2144-7-21**]  02:49 PM
                             [**2144-7-22**]  05:34 AM
                             [**2144-7-22**]  11:36 AM
                             [**2144-7-22**]  07:05 PM
                             [**2144-7-23**]  04:16 AM
   WBC
   13.9
   21.0
   14.5
   Hct
   33.3
   30
   31.6
   32.3
   Plt
   452
   532
   501
   Cr
   0.2
   0.4
   0.2
   0.3
   0.4
   0.3
   0.3
   0.2
   TropT
   <0.01
   <0.01
   TCO2
   39
   Glucose
   258
   182
   247
   220
   253
   190
   126
   Other labs: PT / PTT / INR:12.5/25.3/1.1, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:[**12-21**], Alk Phos / T Bili:138/0.4,
   D-dimer:752 ng/mL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:198
   IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   A/P: This is a 59F with mental retardation w/recent dx of lymphoma,
   likely Hodgkins here w tachypnea/hypoxia found to have compression of
   pulmonary artery by mediastinal mass.
   .
   # Tachypnea/hypoxia: Large mediastinal mass compressing pulmonary
   artery as well as L mainstem bronchus. Patient started on chemotherapy
   and high dose steroids in order to reduce tumor burden and PA
   compression. Moderate pericardial effusion but no tamponade physiology
   per ECHO or clinically. Also with moderate bilateral pleural effusions.
   Considered tapping yesterday but felt procedure would be difficult and
   patient at that time was satting 99%on 5L NC. However, later in the
   evening she dropped her sats and was given lasix x1 with successful
   diuresis. Currently satting well on face tent. Diuresis is somewhat
   limited by alkalosis.
   - If drops sats again today, reconsider tap; if unstable, intubation
   - Lasix PRN
   .
   # Lymphoma: Likely Hodgkins which would be very chemoresponsive.
   Therefore started chemotherapy with cytoxan, etoposide and
   doxorubicin.  Due for last dose of etoposide
   - heme/onc following, appreciate their recs
   - Q6 hours tumor lysis labs
   - last dose etoposide
   - currently pericardial effusion w/o tamponade physiology
   - continue allopurinol
   - nebs PRN as etoposide can cause bronchospasm
   - code changed to full given chemo regimen and increased risk of
   bronchospasm
   .
   # Hemopericardium: moderate per ECHO on [**7-17**] without evidence of
   tamponade. Hemodynamically stable.
   - discuss possible need for pericardial window with cardiology though
   stable as above
   - monitor clinically for now. if VS unstable, check pulsus and consider
   repeat ECHO
   .
   # Atrial fibrillation: in rapid afib yesterday, difficult to control on
   esmolol or dilt gtt alone; improved on both dilt and esmolol. Hx of
   difficult to control afib and has required two drips in the past.
   - continue dilt and esmolol gtt
   - add amiodarone
   - no anticoagulation given hemopericardium
   .
   # Acid/base status: Unclear but likely mixed picture of respiratory
   acidosis and metabolic alkalosis. Bicarb trending up yesterday, now 38.
   Received dose of lasix for presumed pulmonary edema given CXR findings
   which possibly worsened the picture.
   -  monitor lytes
   - ck ABG if change in respiratory status
   - Attempt to keep fluid balance even to positive if respiratory status
   allows
   .
   # Ileus: stable; abdomen soft; chronic;
   - AXR unchanged
   - replete lytes aggressively
   .
   # Anemia: stable
   .
   # FEN: monitor lytes. regular cardiac diet ; I/O if respiratory status
   allows
   .
   # Proph: bowel regimen, PPI, heparin subQ
   .
   # CODE: FULL
   # ACCESS: peripheral; PICC replaced over wire; now with  correct
   positioning
   # DISPO: [**Hospital Unit Name 44**] for now given rapid afib and increasing O2 requirement
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Re Lymphoma diagnosis: per Dr. [**First Name11 (Name Pattern1) 1422**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], path consistent with
   Nodular sclerosing Hodgkin
s lymphoma. Path report not yet available
   through OMR.
   ------ Protected Section Addendum Entered By:[**Name (NI) 153**] [**Last Name (NamePattern1) 2957**], MD
   on:[**2144-7-23**] 17:16 ------

2144-07-23 10:20:00 Physician Attending Progress Note
Chief Complaint: Resp failure, afib with RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 59F with mental retardation, with compression of pulmonary artery
   by mediastinal mass, new diagnosis of Hodgkins, encasing SVC and
   bilateral bronchi.
   24 Hour Events:
 PICC LINE - STOP [**2144-7-22**] 12:00 PM
 PICC LINE - START [**2144-7-22**] 01:00 PM
   Back in afib with RVR, rate finally controlled on esmolol and dilt.
   SpO2 lower, responded to lasix IV with 400cc out and improved
   oxygenation.
   Received chemo dose last night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Esmolol - 50 mcg/Kg/min
   Diltiazem - 20 mg/hour
   Other ICU medications:
   Diltiazem - [**2144-7-22**] 06:45 PM
   Furosemide (Lasix) - [**2144-7-22**] 10:10 PM
   Pantoprazole (Protonix) - [**2144-7-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-23**] 08:00 AM
   Other medications:
   doxorubicin, etoposide, cyclophosphamide given x2
   see res note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-23**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.4
C (95.7
   HR: 98 (70 - 148) bpm
   BP: 107/59(69) {90/49(60) - 130/86(91)} mmHg
   RR: 16 (14 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,638 mL
                                                                  1,019 mL
   PO:
                                                                    500 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    938 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    720 mL
   Urine:
                                                                  1,825 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///38/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: SC LAD seems slightly decreased
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+, increased edema in hands as well
   Musculoskeletal: Unable to stand, refuses to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   8.8 g/dL
   501 K/uL
   126 mg/dL
   0.2 mg/dL
   38 mEq/L
   4.9 mEq/L
   14 mg/dL
   105 mEq/L
   144 mEq/L
   32.3 %
   14.5 K/uL
        [image002.jpg]
                             [**2144-7-20**]  09:29 PM
                             [**2144-7-21**]  12:00 AM
                             [**2144-7-21**]  04:43 AM
                             [**2144-7-21**]  12:13 PM
                             [**2144-7-21**]  02:49 PM
                             [**2144-7-22**]  05:34 AM
                             [**2144-7-22**]  11:36 AM
                             [**2144-7-22**]  07:05 PM
                             [**2144-7-23**]  04:16 AM
   WBC
   13.9
   21.0
   14.5
   Hct
   33.3
   30
   31.6
   32.3
   Plt
   452
   532
   501
   Cr
   0.2
   0.4
   0.2
   0.3
   0.4
   0.3
   0.3
   0.2
   TropT
   <0.01
   <0.01
   TCO2
   39
   Glucose
   258
   182
   247
   220
   253
   190
   126
   Other labs: PT / PTT / INR:12.5/25.3/1.1, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:[**12-21**], Alk Phos / T Bili:138/0.4,
   D-dimer:752 ng/mL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:198
   IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Resp failure with high oxygen requirement- support with O2, try to
   control rate, diurese
   Afib with RVR with multiple causative factors: elevated atrial
   pressures, pericardial effusion, pleural effusions, pulmonary edema
   Start amio, titrate off esmolol and dilt drips if possible
   Recent serosanguinous pericardial effusion:
   - continue to monitor pulsus
   Pleural effusions
   Consider poor tolerance of procedures, will continue to avoid tap,
   knowing that it is a possible intervention if she becomes more dyspneic
   or hypoxemic
   Hodgkins Disease
   Continue chemo
   Determine optimal corticosteroid dose
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40
   Critically ill with afib, RVR, hypoxemia, resp failure

2144-07-24 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Dex dose equivalent to prednisone 80- indicated per regimen
   Did not meet goal I/O: +2L (large PO intake).
   Started lasix gtt
   Abdomen more distended. AXR unchanged and no free air. Gave dulcolax
   PR. NO BM in several days
   Not rate controlled on IV amio + esmolol. Dilt not compatible.
   Therefore d/c'd IV amio and esmolol. Restarted dilt. Started PO amio.
   Patiently spontaneously converted to NSR, rate 75.
   This morning, called to see patient  by nurse as felt to be more
   sleepy. Patient arousable and answering questions but appeared less
   alert and falling asleep during interview.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-7-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-23**] 02:00 PM
   Furosemide (Lasix) - [**2144-7-23**] 04:00 PM
   Metoprolol - [**2144-7-24**] 03:30 AM
   Diltiazem - [**2144-7-24**] 04:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 73 (73 - 143) bpm
   BP: 127/61(75) {101/49(63) - 133/95(101)} mmHg
   RR: 13 (13 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,013 mL
                                                                    840 mL
   PO:
                                                                  1,800 mL
             TF:
   IVF:
                                                                  2,213 mL
                                                                    840 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                  1,200 mL
   Urine:
                                                                  1,835 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,178 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: All four extremities, Tone: Normal
   CN II-XII intact
   Labs / Radiology
   418 K/uL
   8.3 g/dL
   230 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.8 mEq/L
   20 mg/dL
   104 mEq/L
   141 mEq/L
   29.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2144-7-21**]  12:13 PM
                             [**2144-7-21**]  02:49 PM
                             [**2144-7-22**]  05:34 AM
                             [**2144-7-22**]  11:36 AM
                             [**2144-7-22**]  07:05 PM
                             [**2144-7-23**]  04:16 AM
                             [**2144-7-23**]  11:48 AM
                             [**2144-7-23**]  06:09 PM
                             [**2144-7-24**]  01:00 AM
                             [**2144-7-24**]  03:14 AM
   WBC
   21.0
   14.5
   10.4
   Hct
   30
   31.6
   32.3
   29.0
   Plt
   532
   501
   418
   Cr
   0.3
   0.4
   0.3
   0.3
   0.2
   0.2
   0.4
   0.3
   0.3
   TropT
   <0.01
   TCO2
   39
   Glucose
   247
   220
   253
   190
   126
   199
   [**Telephone/Fax (3) 3136**]
   Other labs: PT / PTT / INR:12.5/25.3/1.1, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:[**12-21**], Alk Phos / T Bili:138/0.5,
   D-dimer:752 ng/mL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:198
   IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P: This is a 59F with mental retardation w/ recent dx of Nodular
   sclerosing hodgkins lymphoma (per Onc note) here w tachypnea/hypoxia
   found to have compression of pulmonary artery by mediastinal mass.
    .
   # Altered mental status:  No focal deficits on exam. Given worsening
   respiratory status, concern that patient may be more somnolent
   secondary to hypercarbic respiratory failure.
   - ck ABG/VBG
   - monitor sats
   - continue diuresis
   - consider intubation if acutely worsens
   # Tachypnea/hypoxia: Encasement of pulmonary artery and left main
   bronchus by mediastinal mass. Per Onc, her tumor should be very
   chemoresponsive. Therefore patient started on chemotherapy and high
   dose steroids with the intention of reducing tumor burden and PA
   compression. Given hemopericardium, would not start heparin for PE and
   no compelling evidence that she has PE. Moderate pericardial effusion
   but no tamponade physiology per recent echo. Pulsus 8 overnight.
   Currently stting well on NC and face tent.
   - continue steroids x total of 14 days
   - ECHO- notable for elevated R atrial pressures and moderate
   pericardial effusion with component of blood
   - F/U heme/onc recs.
   - continue supplemental oxygen as needed
   .
   # Lymphoma: NSHL. Completed one cycle of modified regimen with cytoxan,
   etoposide and doxorubicin. TL labs stable.
   - heme/onc following, appreciate their recs
   - currently pericardial effusion w/o tamponade physiology
   - allopurinol
   - continue steroids as above
   .
   # Atrial fibrillation: In rapid afib yesterday not responsive to max
   dose esmolol and dilt or amiodarone. Switched to dilt and PO amio and
   patient spontaneously converted to sinus.
   - start PO lopressor
   - d/c dilt gtt
   -d/c amio
   - monitor on TELE
   - no anticoagulation given hemopericardium
   # Hemopericardium: moderate per ECHO on [**7-17**] without evidence of
   tamponade. Hemodynamically stable. If develops persistent uncontrolled
   afib, discuss need to drain pericardial effusion with cards. Pulsus 8
   overnight.
   - monitor clinically for now. if VS unstable, check pulsus and consider
   repeat ECHO
   .
   .
   # Acid/base status: VBG demonstrates respiratory acidosis with pCO2of
   81.
   - ck ABG to confirm above
   - diuresis with lasix gtt
   - continue to monitor clinically
   -  monitor lytes
   .
   # Ileus: stable; abdomen soft; chronic;
   - AXR unchanged
   - replete lytes aggressively
   - fleets enema
   .
   # Anemia: stable
   # FEN: monitor lytes. regular cardiac diet
   .
   # Proph: bowel regimen, PPI, heparin subQ
   .
   # CODE: DNR/DNI -- confirmed with HCP [**Name (NI) 3080**].
   # ACCESS: peripheral; PICC replaced by IR
   .
   # DISPO: ICU care for now
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-07-24 09:42:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Last dose of etoposide
   Rapid afib Rx with esmolol and amio load - then switched to dilt and po
   AMIO and spontaneously converted.
   ended up 2L positive
                                 History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-7-23**] 04:00 PM
   Metoprolol - [**2144-7-24**] 03:30 AM
   Diltiazem - [**2144-7-24**] 04:54 AM
   Pantoprazole (Protonix) - [**2144-7-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-24**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 71 (71 - 143) bpm
   BP: 124/63(76) {101/49(63) - 133/95(101)} mmHg
   RR: 19 (13 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,013 mL
                                                                  1,117 mL
   PO:
                                                                  1,800 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  2,213 mL
                                                                    867 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                  1,380 mL
   Urine:
                                                                  1,835 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,178 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///34/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, more sedated this AM
   Labs / Radiology
   8.3 g/dL
   418 K/uL
   230 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.8 mEq/L
   20 mg/dL
   104 mEq/L
   141 mEq/L
   29.0 %
   10.4 K/uL
        [image002.jpg]
                             [**2144-7-21**]  12:13 PM
                             [**2144-7-21**]  02:49 PM
                             [**2144-7-22**]  05:34 AM
                             [**2144-7-22**]  11:36 AM
                             [**2144-7-22**]  07:05 PM
                             [**2144-7-23**]  04:16 AM
                             [**2144-7-23**]  11:48 AM
                             [**2144-7-23**]  06:09 PM
                             [**2144-7-24**]  01:00 AM
                             [**2144-7-24**]  03:14 AM
   WBC
   21.0
   14.5
   10.4
   Hct
   30
   31.6
   32.3
   29.0
   Plt
   532
   501
   418
   Cr
   0.3
   0.4
   0.3
   0.3
   0.2
   0.2
   0.4
   0.3
   0.3
   TropT
   <0.01
   TCO2
   39
   Glucose
   247
   220
   253
   190
   126
   199
   [**Telephone/Fax (3) 3136**]
   Other labs: PT / PTT / INR:12.5/25.3/1.1, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:[**12-21**], Alk Phos / T Bili:138/0.5,
   D-dimer:752 ng/mL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:198
   IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Resp failure with high oxygen requirement- support with O2, try to
   control rate, diurese
   1. Mental Status changes: DDX hypercarbia - check ABG/VBG (so can
   follow VBG in future), obstipation- aggressive bowel reg.
   2. Afib with RVR with multiple causative factors: elevated atrial
   pressures, pericardial effusion, pleural effusions, pulmonary edema.
   Complete po amio, d/c diltiazem, po lopressor
   3. Pleural effusions: Consider poor tolerance of procedures, will
   continue to avoid tap, knowing that it is a possible intervention if
   she becomes more dyspneic or hypoxemic
   4. Pericardial eff: pulsus stable at 9
   5. Hodgkins Disease : completed chemo, continue Dex, change [**Hospital1 **] lysis
   labs.
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Prophylaxis:
   DVT: sq
   Stress ulcer: bowel reg.
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2144-07-25 07:28:00 Physician Resident Progress Note
Chief Complaint: Lymphoma
   24 Hour Events:
 THORACENTESIS - At [**2144-7-24**] 06:00 PM
   Pt intubated for worsening somnolence and increasing CO2 retention.
   Underwent thoracentesis of R pleural effusion. Lasix gtt started.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2144-7-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2144-7-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-25**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 57 (51 - 78) bpm
   BP: 100/50(61) {97/49(61) - 132/67(83)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,248 mL
                                                                    247 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                    998 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                  1,210 mL
   Urine:
                                                                  3,145 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,897 mL
                                                                   -963 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.54/49/81.[**Numeric Identifier 607**]/37/16
   Ve: 6.8 L/min
   PaO2 / FiO2: 135
   Physical Examination
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present
   Skin:  Warm
   Neurologic: Sedated
   CV: RRR no MRG
   Resp: bibasilar crackles
   Abd: soft, NT/ND NABS
   Ext 2+ LE edema
   Labs / Radiology
   232 K/uL
   7.0 g/dL
   140 mg/dL
   0.3 mg/dL
   37 mEq/L
   3.7 mEq/L
   16 mg/dL
   100 mEq/L
   141 mEq/L
   24.1 %
   3.9 K/uL
        [image002.jpg]
                             [**2144-7-23**]  11:48 AM
                             [**2144-7-23**]  06:09 PM
                             [**2144-7-24**]  01:00 AM
                             [**2144-7-24**]  03:14 AM
                             [**2144-7-24**]  11:36 AM
                             [**2144-7-24**]  01:46 PM
                             [**2144-7-24**]  06:20 PM
                             [**2144-7-24**]  08:21 PM
                             [**2144-7-25**]  02:58 AM
                             [**2144-7-25**]  05:35 AM
   WBC
   10.4
   3.9
   Hct
   29.0
   24.1
   Plt
   418
   232
   Cr
   0.2
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   42
   42
   41
   43
   Glucose
   199
   228
   254
   230
   175
   140
   Other labs: PT / PTT / INR:12.5/25.3/1.1, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:18/11, Alk Phos / T Bili:96/0.7,
   D-dimer:752 ng/mL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:149
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: WBC, Pleural 600* #/uL 0 - 0
   RBC, Pleural 5500* #/uL 0 - 0
   Polys 0 % 0 - 0
   Lymphocytes 93* % 0 - 0
   Monos 1* % 0 - 0
   Other 6* % 0 - 0
     PENDING REVIEW
   Total Protein, Pleural 1.6 g/dL
   Lactate Dehydrogenase, Pleural 135 IU/L
   pH 7.58 units
   Serum LDH - Lactate Dehydrogenase (LD) 149 IU/L 94 - 250
   Microbiology: [**2144-7-24**] 5:09 pm PLEURAL FLUID      #3.
      GRAM STAIN (Final [**2144-7-24**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   Assessment and Plan
   A/P: This is a 59F with mental retardation w/ recent dx of Nodular
   sclerosing hodgkins lymphoma (per Onc note) here w tachypnea/hypoxia
   found to have compression of pulmonary artery by mediastinal mass now
   intubated secondary to multifactorial respiratory failure
    .
   # Altered mental status. Given worsening respiratory status, concern
   that patient may be more somnolent secondary to hypercarbic respiratory
   failure
 pt was intubated on [**7-24**]
   - follow alkalosis on ABG
 will decrease rate to correct for pH of
   7.53
   - monitor sats
   - continue diuresis
 cont lasix gtt for goal 1L neg
   # Tachypnea/hypoxia: Multifactorial - Encasement of pulmonary artery
   and left main bronchus by mediastinal mass. Per Onc, her tumor should
   be very chemoresponsive. Therefore patient started on chemotherapy and
   high dose steroids with the intention of reducing tumor burden and PA
   compression. Given hemopericardium, would not start heparin for PE and
   no compelling evidence that she has PE. Moderate pericardial effusion
   but no tamponade physiology per recent echo.
   - respiratory failure
 continue vent as above
 pt w/ increasing CO2
   retention and hypoxia
   - now s/p thoracentesis
 exudative effusion
 no evidence of infection
 likely malignant given lymphocyte predominance
 cytology pending
   - continue steroids x total of 14 days
   - ECHO- notable for elevated R atrial pressures and moderate
   pericardial effusion with component of blood
   - F/U heme/onc recs.
   .
   # Lymphoma: NSHL. Completed one cycle of modified regimen with cytoxan,
   etoposide and doxorubicin. TL labs stable.
   - heme/onc following, appreciate their recs
   - currently pericardial effusion w/o tamponade physiology
   - allopurinol
   - continue steroids as above
   .
   # Atrial fibrillation: Pt previously In rapid afib not responsive to
   max dose esmolol and dilt or amiodarone. Switched to dilt and PO amio
   and patient spontaneously converted to sinus.
   - start PO lopressor
   - d/c dilt gtt and amio
   - monitor on TELE
   - no anticoagulation given hemopericardium
    .
   # Hemopericardium: moderate per ECHO on [**7-17**] without evidence of
   tamponade. Hemodynamically stable. If develops persistent uncontrolled
   afib, discuss need to drain pericardial effusion with cards. Pulsus 8
   overnight.
   - monitor clinically for now. if VS unstable, check pulsus and consider
   repeat ECHO
   .
   # Acid/base status:  Metabolic alkalosis with pH of 7.53  today
 will
   adjust vent to maintain pH below 7.5, pt also w/ chronic CO2 retention
   - follow ABG
   - diuresis with lasix gtt
   - continue to monitor clinically
   -  monitor lytes
   .
   # Ileus: stable; abdomen soft; chronic;
   - replete lytes aggressively
   - fleets enema
   .
   # Anemia: stable
    .
   # FEN: monitor lytes.
   .
   # Proph: bowel regimen, PPI, heparin subQ
   .
   # CODE: FULL -- confirmed with HCP [**Name (NI) 3080**]
 DNR reversed prior to chemo
   .
   # ACCESS: peripheral; PICC replaced by IR
   .
   # DISPO: ICU care for now
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin SC
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2144-07-25 12:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo women presented with respiratory distress, hypoxemia, found to
   have mediastinal mass with pulmonary artery compression, pericardial
   effusion.  Received 3 doses of Doxirubince/etoposide/cytoxan, and
   steroids.  Yesterday had a 1.2L effusion drained from Right Thorax.
   Difficult to control AFib on amio.
   24 Hour Events:
 THORACENTESIS - At [**2144-7-24**] 06:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-24**] 10:00 PM
   Other medications:
   allopurinol
   SSI
   dexamethasone 20mg IV qd
   lopressor (held)
   Changes to medical and family history:
   Mental Retardation
   Hodgkin's Disease - Nodular Sclerosing
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-25**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 57 (51 - 78) bpm
   BP: 107/49(62) {97/45(59) - 132/67(83)} mmHg
   RR: 11 (9 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,248 mL
                                                                    507 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                    998 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                  2,210 mL
   Urine:
                                                                  3,145 mL
                                                                  1,960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,897 mL
                                                                 -1,703 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.54/49/81.[**Numeric Identifier 607**]/37/16
   Ve: 6 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   232 K/uL
   140 mg/dL
   0.3 mg/dL
   37 mEq/L
   3.7 mEq/L
   16 mg/dL
   100 mEq/L
   141 mEq/L
   24.1 %
   3.9 K/uL
        [image002.jpg]
                             [**2144-7-23**]  11:48 AM
                             [**2144-7-23**]  06:09 PM
                             [**2144-7-24**]  01:00 AM
                             [**2144-7-24**]  03:14 AM
                             [**2144-7-24**]  11:36 AM
                             [**2144-7-24**]  01:46 PM
                             [**2144-7-24**]  06:20 PM
                             [**2144-7-24**]  08:21 PM
                             [**2144-7-25**]  02:58 AM
                             [**2144-7-25**]  05:35 AM
   WBC
   10.4
   3.9
   Hct
   29.0
   24.1
   Plt
   418
   232
   Cr
   0.2
   0.4
   0.3
   0.3
   0.3
   0.3
   TCO2
   42
   42
   41
   43
   Glucose
   199
   228
   254
   230
   175
   140
   Other labs: PT / PTT / INR:12.5/25.3/1.1, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:18/11, Alk Phos / T Bili:96/0.7,
   D-dimer:752 ng/mL, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL, LDH:149
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Respiratory Failure:  Hypoxemia and hypercarbia:  Evidence of
   compression of pulmonary artery and bronchus.  Has metabolic
   alkalosis:  Reduce RR and Vt to improve alkalemia.
   Altered MS:   Likely due to hypercarbia yesterday
   Hodgkins:  Has completed first cycle of chemo, continue steroids.
   Evidence of reduced LN size on exam.
   AFib: Now in NSR with short runs of Afib.  On amiodarone
   h/o pericardial effusion:  stable pulsus
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2144-07-26 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2144-7-25**] 08:00 PM
   More awake and alert this am
   Diuresed over 2L yest - lasix gtt held last pm
   Plan to attempt extubation this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-26**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 57 (52 - 63) bpm
   BP: 113/47(70) {109/44(65) - 135/66(87)} mmHg
   RR: 13 (10 - 14) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    878 mL
                                                                    128 mL
   PO:
             TF:
   IVF:
                                                                    458 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    310 mL
   Urine:
                                                                  3,040 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,412 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 508 (508 - 508) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.50/58/91.[**Numeric Identifier 96**]/39/18
   Ve: 4.7 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   199 K/uL
   6.6 g/dL
   118 mg/dL
   0.2 mg/dL
   39 mEq/L
   4.1 mEq/L
   14 mg/dL
   98 mEq/L
   141 mEq/L
   22.2 %
   3.3 K/uL
        [image002.jpg]
                             [**2144-7-24**]  01:46 PM
                             [**2144-7-24**]  06:20 PM
                             [**2144-7-24**]  08:21 PM
                             [**2144-7-25**]  02:58 AM
                             [**2144-7-25**]  05:35 AM
                             [**2144-7-25**]  02:14 PM
                             [**2144-7-25**]  02:23 PM
                             [**2144-7-26**]  03:08 AM
                             [**2144-7-26**]  03:32 AM
                             [**2144-7-26**]  05:33 AM
   WBC
   3.9
   3.3
   Hct
   24.1
   23.6
   22.2
   Plt
   232
   199
   Cr
   0.3
   0.3
   0.2
   TCO2
   42
   41
   43
   45
   46
   47
   Glucose
   175
   140
   118
   Other labs: PT / PTT / INR:14.3/26.6/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:20/10, Alk Phos / T Bili:89/0.6,
   D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:125
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   A/P: This is a 59F with mental retardation w/ recent dx of Nodular
   sclerosing hodgkins lymphoma (per Onc note) here w tachypnea/hypoxia
   found to have compression of pulmonary artery by mediastinal mass now
   intubated secondary to multifactorial respiratory failure
    .
   # Altered mental status. Given worsening respiratory status, concern
   that patient may be more somnolent secondary to hypercarbic respiratory
   failure
 pt was intubated on [**7-24**]
   - follow alkalosis on ABG
 will decrease rate to correct for pH of
   7.53
   - monitor sats
   - continue diuresis
 cont lasix gtt for goal 1L neg
   # Tachypnea/hypoxia: Multifactorial - Encasement of pulmonary artery
   and left main bronchus by mediastinal mass. Therefore patient started
   on chemotherapy and high dose steroids with the intention of reducing
   tumor burden and PA compression. Given hemopericardium, would not start
   heparin for PE and no compelling evidence that she has PE. Moderate
   pericardial effusion but no tamponade physiology per recent echo.
   - respiratory failure
 continue vent as above
 pt w/ increasing CO2
   retention and hypoxia
   - now s/p thoracentesis
 exudative effusion
 no evidence of infection
 likely malignant given lymphocyte predominance
 cytology pending
   - continue steroids x total of 14 days
   - ECHO- notable for elevated R atrial pressures and moderate
   pericardial effusion with component of blood
   - F/U heme/onc recs.
   .
   # Lymphoma: NSHL. Completed one cycle of modified regimen with cytoxan,
   etoposide and doxorubicin. TL labs stable.
   - heme/onc following, appreciate their recs
   - currently pericardial effusion w/o tamponade physiology
   - allopurinol
   - continue steroids as above
   .
   # Atrial fibrillation: Pt previously n rapid afib not responsive to max
   dose esmolol and dilt or amiodarone. Switched to dilt and PO amio and
   patient spontaneously converted to sinus.
   - on PO lopressor
   - monitor on TELE
   - no anticoagulation given hemopericardium
    .
   # Hemopericardium: moderate per ECHO on [**7-17**] without evidence of
   tamponade. Hemodynamically stable. If develops persistent uncontrolled
   afib, discuss need to drain pericardial effusion with cards. Pulsus 8
   overnight.
   - monitor clinically for now. if VS unstable, check pulsus and consider
   repeat ECHO
   .
   # Acid/base status:  Metabolic alkalosis with pH of 7.53  today
 will
   adjust vent to maintain pH below 7.5, pt also w/ chronic CO2 retention
   - follow ABG
   - diuresis with lasix gtt
   - continue to monitor clinically
   -  monitor lytes
   .
   # Ileus: stable; abdomen soft; chronic;
   - replete lytes aggressively
   - fleets enema
   .
   # Anemia: stable
    .
   # FEN: monitor lytes.
   .
   # Proph: bowel regimen, PPI, heparin subQ
   .
   # CODE: FULL -- confirmed with HCP [**Name (NI) 3080**]
 DNR reversed prior to chemo
   .
   # ACCESS: peripheral; PICC replaced by IR
   .
   # DISPO: ICU care for now
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Arterial Line - [**2144-7-25**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-07-26 10:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 with new diagnosis of hodgkin's.  Doing well on vent.  Weaning.
   24 Hour Events:
 ARTERIAL LINE - START [**2144-7-25**] 08:00 PM
   diuresed 2L yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-7-26**] 08:00 AM
   Other medications:
   protonix
   allopurinol
   SSI
   dexamethasone
   bisacodyl
   lopressor 12.5 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-26**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 59 (52 - 63) bpm
   BP: 126/50(77) {109/44(65) - 135/66(87)} mmHg
   RR: 13 (10 - 15) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    878 mL
                                                                    282 mL
   PO:
             TF:
   IVF:
                                                                    458 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    410 mL
   Urine:
                                                                  3,040 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,412 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 320 (320 - 508) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.50/58/91.[**Numeric Identifier 96**]/39/18
   Ve: 4.1 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous: right
   base)
   Abdominal: No(t) Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, more attentive
   Labs / Radiology
   6.6 g/dL
   199 K/uL
   118 mg/dL
   0.2 mg/dL
   39 mEq/L
   4.1 mEq/L
   14 mg/dL
   98 mEq/L
   141 mEq/L
   22.2 %
   3.3 K/uL
        [image002.jpg]
                             [**2144-7-24**]  01:46 PM
                             [**2144-7-24**]  06:20 PM
                             [**2144-7-24**]  08:21 PM
                             [**2144-7-25**]  02:58 AM
                             [**2144-7-25**]  05:35 AM
                             [**2144-7-25**]  02:14 PM
                             [**2144-7-25**]  02:23 PM
                             [**2144-7-26**]  03:08 AM
                             [**2144-7-26**]  03:32 AM
                             [**2144-7-26**]  05:33 AM
   WBC
   3.9
   3.3
   Hct
   24.1
   23.6
   22.2
   Plt
   232
   199
   Cr
   0.3
   0.3
   0.2
   TCO2
   42
   41
   43
   45
   46
   47
   Glucose
   175
   140
   118
   Other labs: PT / PTT / INR:14.3/26.6/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:20/10, Alk Phos / T Bili:89/0.6,
   D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:125
   IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Respiratory Failure:  Hypercarbic and hypoxemix.  Continue diuresis and
   add acetazolamide to prevent further metabolic alkalemia.  Looks great
   with SBT today so will attempt extubation.
   PAF:  Still having some runs of PAF.  Lower threshold for holding
   lopressor to prevent PAF.
   Anemia:  Slowly drifting Hct.  no signs of bleeding.  Transfuse 1 unit
   of blood.
   Fluid overload:  restart lasix drip.  add acetazolamide.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Arterial Line - [**2144-7-25**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2144-07-27 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated
   Converted to rapid afib, restarted dilt gtt, well controlled
   Hct bumped appropriately after 1U PRBCs
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2144-7-26**] 09:18 PM
   Heparin Sodium (Prophylaxis) - [**2144-7-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-7-27**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 59 (51 - 138) bpm
   BP: 120/50(72) {100/47(69) - 144/65(88)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,045 mL
                                                                    116 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    391 mL
                                                                    116 mL
   Blood products:
                                                                    294 mL
   Total out:
                                                                  3,745 mL
                                                                  1,350 mL
   Urine:
                                                                  3,745 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,700 mL
                                                                 -1,234 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 4,693 (320 - 4,693) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.46/54/180/35/13
   Ve: 7.8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   256 K/uL
   8.1 g/dL
   158 mg/dL
   0.2 mg/dL
   35 mEq/L
   3.4 mEq/L
   12 mg/dL
   97 mEq/L
   136 mEq/L
   25.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2144-7-25**]  02:14 PM
                             [**2144-7-25**]  02:23 PM
                             [**2144-7-26**]  03:08 AM
                             [**2144-7-26**]  03:32 AM
                             [**2144-7-26**]  05:33 AM
                             [**2144-7-26**]  10:02 AM
                             [**2144-7-26**]  12:37 PM
                             [**2144-7-26**]  03:23 PM
                             [**2144-7-26**]  06:18 PM
                             [**2144-7-27**]  03:37 AM
   WBC
   3.3
   5.5
   6.9
   Hct
   23.6
   22.2
   27.4
   25.8
   Plt
   199
   237
   256
   Cr
   0.2
   0.3
   0.2
   TCO2
   45
   46
   47
   41
   40
   40
   Glucose
   118
   162
   158
   Other labs: PT / PTT / INR:13.8/26.9/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:20/10, Alk Phos / T Bili:89/0.6,
   D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:125
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: This is a 59F with mental retardation w/ recent dx of Nodular
   sclerosing hodgkins lymphoma (per Onc note) here w tachypnea/hypoxia
   found to have compression of pulmonary artery by mediastinal mass now
   intubated secondary to multifactorial respiratory failure
    .
   # Altered mental status. Given worsening respiratory status, concern
   that patient may be more somnolent secondary to hypercarbic respiratory
   failure
 pt was intubated on [**7-24**]
   - follow alkalosis on ABG
 will decrease rate to correct for pH of
   7.53
   - monitor sats
   - continue diuresis
 cont lasix gtt for goal 1L neg
   # Tachypnea/hypoxia: Multifactorial - Encasement of pulmonary artery
   and left main bronchus by mediastinal mass. Per Onc, her tumor should
   be very chemoresponsive. Therefore patient started on chemotherapy and
   high dose steroids with the intention of reducing tumor burden and PA
   compression. Given hemopericardium, would not start heparin for PE and
   no compelling evidence that she has PE. Moderate pericardial effusion
   but no tamponade physiology per recent echo.
   - respiratory failure
 continue vent as above
 pt w/ increasing CO2
   retention and hypoxia
   - now s/p thoracentesis
 exudative effusion
 no evidence of infection
 likely malignant given lymphocyte predominance
 cytology pending
   - continue steroids x total of 14 days
   - ECHO- notable for elevated R atrial pressures and moderate
   pericardial effusion with component of blood
   - F/U heme/onc recs.
   .
   # Lymphoma: NSHL. Completed one cycle of modified regimen with cytoxan,
   etoposide and doxorubicin. TL labs stable.
   - heme/onc following, appreciate their recs
   - currently pericardial effusion w/o tamponade physiology
   - allopurinol
   - continue steroids as above
   .
   # Atrial fibrillation: Pt previously In rapid afib not responsive to
   max dose esmolol and dilt or amiodarone. Switched to dilt and PO amio
   and patient spontaneously converted to sinus.
   - start PO lopressor
   - d/c dilt gtt and amio
   - monitor on TELE
   - no anticoagulation given hemopericardium
    .
   # Hemopericardium: moderate per ECHO on [**7-17**] without evidence of
   tamponade. Hemodynamically stable. If develops persistent uncontrolled
   afib, discuss need to drain pericardial effusion with cards. Pulsus 8
   overnight.
   - monitor clinically for now. if VS unstable, check pulsus and consider
   repeat ECHO
   .
   # Acid/base status:  Metabolic alkalosis with pH of 7.53  today
 will
   adjust vent to maintain pH below 7.5, pt also w/ chronic CO2 retention
   - follow ABG
   - diuresis with lasix gtt
   - continue to monitor clinically
   -  monitor lytes
   .
   # Ileus: stable; abdomen soft; chronic;
   - replete lytes aggressively
   - fleets enema
   .
   # Anemia: stable
    .
   # FEN: monitor lytes.
   .
   # Proph: bowel regimen, PPI, heparin subQ
   .
   # CODE: FULL -- confirmed with HCP [**Name (NI) 3080**]
 DNR reversed prior to chemo
   .
   # ACCESS: peripheral; PICC replaced by IR
   .
   # DISPO: ICU care for now
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Arterial Line - [**2144-7-25**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-07-27 10:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Over weekend intubated for hypercapnic resp failure, got thoracentesis
   1.1L. Extubated yesterday. Back in rapid afib. Converted to sinus on
   beta blocker.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2144-7-26**] 09:18 PM
   Heparin Sodium (Prophylaxis) - [**2144-7-27**] 08:00 AM
   Pantoprazole (Protonix) - [**2144-7-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies pain. Breathing comfortable. Wants to eat.
   Flowsheet Data as of  [**2144-7-27**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 70 (56 - 138) bpm
   BP: 131/64(87) {100/50(69) - 144/65(88)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,045 mL
                                                                    393 mL
   PO:
                                                                    240 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    391 mL
                                                                    143 mL
   Blood products:
                                                                    294 mL
   Total out:
                                                                  3,745 mL
                                                                  1,670 mL
   Urine:
                                                                  3,745 mL
                                                                  1,670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,700 mL
                                                                 -1,277 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 4,693 (392 - 4,693) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 0 cmH2O
   SpO2: 94%
   ABG: 7.46/54/180/35/13
   Ve: 7.8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: SC LAD improved but palpable
   Cardiovascular: (S1: Normal), (S2: Normal), difficult to auscultate due
   to pt talking
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: mild, diffuse
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   256 K/uL
   158 mg/dL
   0.2 mg/dL
   35 mEq/L
   3.4 mEq/L
   12 mg/dL
   97 mEq/L
   136 mEq/L
   25.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2144-7-25**]  02:14 PM
                             [**2144-7-25**]  02:23 PM
                             [**2144-7-26**]  03:08 AM
                             [**2144-7-26**]  03:32 AM
                             [**2144-7-26**]  05:33 AM
                             [**2144-7-26**]  10:02 AM
                             [**2144-7-26**]  12:37 PM
                             [**2144-7-26**]  03:23 PM
                             [**2144-7-26**]  06:18 PM
                             [**2144-7-27**]  03:37 AM
   WBC
   3.3
   5.5
   6.9
   Hct
   23.6
   22.2
   27.4
   25.8
   Plt
   199
   237
   256
   Cr
   0.2
   0.3
   0.2
   TCO2
   45
   46
   47
   41
   40
   40
   Glucose
   118
   162
   158
   Other labs: PT / PTT / INR:13.8/26.9/1.2, CK / CKMB /
   Troponin-T:[**7-13**]/<0.01, ALT / AST:20/10, Alk Phos / T Bili:89/0.6,
   D-dimer:752 ng/mL, Lactic Acid:0.7 mmol/L, Albumin:2.4 g/dL, LDH:125
   IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: Linear opacity left mid lung zone- atelectasis vs infiltrate
   on my review.
   Assessment and Plan
   HD
   Chemo, dex
   LAD improved
   Resp failure: Not totally clear why she developed hypercapneic and
   hypoxemic respiratory failure.
   Multifactorial with tumor compression, pleural effusions, pericardial
   effusion
   Improved with much less oxygen requirement.
   Afib
   PO Lopressor, back in sinus now
   Pleural effusions
   s/o tap
   Ileus
   Eating well, no e/o obstruction
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2144-7-22**] 01:00 PM
   Arterial Line - [**2144-7-25**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: